US04547510
E-8-(3-Acetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline
A mixture of 5,6,7,8-tetrahydro-3-methylquinoline (20 ml), m-hydroxybenzaldehyde (20 g), acetic anhydride (50 ml) and ZnCl2 (1 g) was heated at reflux for 31/2 hours. The solvent was removed by evaporation and the residue dissolved in ethyl acetate (300 ml). The solution was extracted with 2N HCl, and the acidic phase was washed once with ethyl acetate. It was then basified (Na2CO3) and the product extracted into a mixture of diethyl ether and ethyl acetate. The solvent was removed by evaporation and the residue crystallised from di-isopropyl ether, washed twice with hexane and then dried to give the title compound as the hemihydrate (7.4 g). m.p. 66°-8° C.

reactant | 5,6,7,8-tetrahydro-3-methylquinoline | 20 ml | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | ZnCl2 | 1 g | [Cl-].[Cl-].[Zn+2]
product | E-8-(3-Acetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline | C(C)(=O)OC=1C=C(\C=C\2/CCCC=3C=C(C=NC23)C)C=CC1 | C19H19NO2
